US20010047031A1
(RS)-4-[1-(4-Phenyl-butyl)-pyrrolidin-3-yl-sulfanyl]-phenol (0.15 g, 0.46 mmol) was dissolved in MeOH (4 ml), cooled to 0° C. and treated with oxone (0.28 g, 0.46 mmol). After 1 hour stirring at 0° C., the reaction mixture was quenched with saturated NaHCO3 (15 ml). The aqueous phase was extracted with CH2Cl2 (3 times). The combined organic phases were dried over Na2SO4, filtered and the solvent was evaporated. The residue was chromatographed over silica gel (ethyl acetate then ethyl acetate-MeOH, 95:5 then 9:1) to provide an oil which was suspensed in MeOH. HCl-Et2O was added to provide (3RS, S-oxide RS) and (3RS, S-oxide SR)-4-[1-(4-phenyl-butyl)-pyrrolidine-3-sulfinyl]-phenol hydrochloride (0.04 g, 23%) as a foam, MS: m/e=344.2 (M+H+).

reactant | (RS)-4-[1-(4-Phenyl-butyl)-pyrrolidin-3-yl-sulfanyl]-phenol | 0.46 mmol, 0.15 g | C1(=CC=CC=C1)CCCCN1CC(CC1)SC1=CC=C(C=C1)O | C20H25NOS
reactant | oxone | 0.46 mmol, 0.28 g | OOS(=O)[O-].[K+]
reactant | HCl Et2O | Cl.CCOCC
solvent | MeOH | 4 ml | CO | CH4O
product | 4-[1-(4-phenyl-butyl)-pyrrolidine-3-sulfinyl]-phenol hydrochloride | 0.04 g, 23% | Cl.C1(=CC=CC=C1)CCCCN1CC(CC1)S(=O)C1=CC=C(C=C1)O | InChI=1S/C20H25NO2S.ClH/c22-18-9-11-19(12-10-18)24(23)20-13-15-21(16-20)14-5-4-8-17-6-2-1-3-7-17;/h1-3,6-7,9-12,20,22H,4-5,8,13-16H2;1H
